US05102891
1-(Propyl-4-pyridinylamino)-1H-indol-5-yl 4-chlorophenylmethylcarbamate
To a solution of 1-(propyl-4-pyridinylamino)-1H-indol-5-ol (2.5 g) in 60 ml of tetrahydrofuran was added 1,1'-carbonyldiimidazole (1.83 g) and this mixture was stirred for 24 hours. Then 4.5 ml of glacial acetic acid was added to the reaction mixture followed by 4-chlorophenylmethylamine (1.5 g) in 10 ml of tetrahydrofuran. This mixture was then stirred for 24 hours, quenched with water and basified with saturated sodium carbonate solution and extracted with ethyl acetate. The organic layer was washed with water and dried (sat. NaCl, anhy. MgSO4). After filtration, the solvent was evaporated to yield an oil (3.9 g), which was eluted with 5% methanol in dichloromethane on a silica gel column via HPLC. The desired fractions were concentrated to yield a solid (3.05 g), m.p. 149°-151° C.

reactant | 1-(propyl-4-pyridinylamino)-1H-indol-5-ol | 2.5 g | C(CC)N(N1C=CC2=CC(=CC=C12)O)C1=CC=NC=C1 | C16H17N3O
reactant | 1,1'-carbonyldiimidazole | 1.83 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | acetic acid | 4.5 ml | C(C)(=O)O | C2H4O2
reactant | 4-chlorophenylmethylamine | 1.5 g | ClC1=CC=C(C=C1)CN | C7H8ClN
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(Propyl-4-pyridinylamino)-1H-indol-5-yl 4-chlorophenylmethylcarbamate | 3.9 g | ClC1=CC=C(C=C1)CNC(OC=1C=C2C=CN(C2=CC1)N(C1=CC=NC=C1)CCC)=O | C24H23ClN4O2
